US07855285B2
6-(Imidazol-1-yl)purine (52 mg, 0.28 mmol) was suspended in a solution of 1-O-acetyl-2,3,5-tri-O-benzoyl-β-D-ribofuranose (160 mg, 0.32 mmol) in dried CH3CN (10 mL). Stannic chloride (0.10 mL, 0.22 g, 0.85 mmol) was added, and the mixture very rapidly became a clear solution. The solution was stirred at ambient temperature for 4 h. NaHCO3 (0.8 g) and H2O (0.1 mL) were added sequentially, and the suspension was stirred for 1 h. The clear solution layer was separated, and the residue was extracted with CH3CN. The extracts and the solution layer were combined, and volatiles were evaporated in vacuo. The residue was chromatographed (CH2Cl2/MeOH, 1:90→1:15) to give 9-(2,3,5-tri-O-benzoyl-β-D-ribofuranosyl)-6-(imidazol-1-yl)purine (179 mg, quantitative): 1H NMR (500 MHz, CDCl3) δ 4.72 (dd, J=4.3, 12.2 Hz, 1H), 4.88 (br s, 1H), 4.95 (dd, J=3.0, 12.3 Hz, 1H), 6.29 (“t”, J=5.2 Hz, 1H), 6.47-6.50 (m, 2H), 7.24 (s, 1H), 7.35-7.60 (m, 9H), 7.93 (d, J=7.6 Hz, 2H), 8.03 (d, J=7.6 Hz, 2H), 8.07 (d, J=7.6 Hz, 2H), 8.28 (s, 1H), 8.35 (s, 1H), 8.65 (s, 1H), 9.13 (s, 1H); 13C NMR (125 MHz, CDCCl3) δ 165.0, 164.3, 164.1, 152.1, 151.5, 144.9, 142.2, 136.6, 132.9, 132.8, 132.4, 129.7, 128.8, 128.7, 128.2, 127.5, 127.2, 122.0, 116.3, 86.4, 79.9, 72.9, 70.3, 62.3; HRMS m/z 653.1749 (MNa+[C34H26N6O7Na]=653.1761).

reactant | 6-(Imidazol-1-yl)purine | 0.28 mmol, 52 mg | N1(C=NC=C1)C1=C2NC=NC2=NC=N1 | C8H6N6
reactant | 1-O-acetyl-2,3,5-tri-O-benzoyl-β-D-ribofuranose | 0.32 mmol, 160 mg | C(C)(=O)O[C@H]1[C@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O | C28H24O9
reactant | NaHCO3 | 0.8 g | C(=O)(O)[O-].[Na+]
reactant | H2O | 0.1 mL | O | H2O
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | 9-(2,3,5-tri-O-benzoyl-β-D-ribofuranosyl)-6-(imidazol-1-yl)purine | 179 mg | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C2=NC=NC(=C2N=C1)N1C=NC=C1 | C34H26N6O7
